US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (0.96 g) as a starting compound, 6-bromo-1-(3-hydroxyphenyl)-1-hexanone (0.70 g) and potassium carbonate (1.60 g) were reacted and purified in the same manner as in Example 172 to give 0.17 g of 4-amino-5-chloro-2-methoxy-N-((1-(6-(3-hydroxyphenyl)-6-oxohexyl)-piperidin-4-yl)methyl)benzamide as a brown oil.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 0.96 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(3-hydroxyphenyl)-1-hexanone | 0.70 g | BrCCCCCC(=O)C1=CC(=CC=C1)O | C12H15BrO2
reactant | potassium carbonate | 1.60 g | C([O-])([O-])=O.[K+].[K+]
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(3-hydroxyphenyl)-6-oxohexyl)-piperidin-4-yl)methyl)benzamide | 0.17 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CC(=CC=C2)O)C=C1Cl)OC | C26H34ClN3O4
